US07834002B2
To a round-bottom flask was added 2.3 g of 6-bromopyridin-2-ylmethyl acetate, 1.18 g of trimethyl silylacetylene, 210 mg of bis(triphenylphosphine)-palladium(II) chloride, 114 mg of copper(I) iodide and 12 mL of triethylamine, and then the mixture was heated to reflux under argon atmosphere for 5 hours. After allowing to cool, the mixture was concentrated to dryness under reduced pressure, thereto water was added, and the mixture was extracted with ethyl acetate. The organic layer was concentrated under reduced pressure, 7 mL of methanol and 30 mL of 1N aqueous potassium hydroxide were added to the residue, and the mixture was stirred for 1 hour. The reaction mixture was acidified with 1N hydrochloric acid and concentrated under reduced pressure. The concentrated solution was basified with potassium carbonate, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was removed off under reduced pressure. The product was purified by chromatography on silica gel (hexane-ethyl acetate=4:1) to give 212 mg of (6-ethynylpyridin-2-yl)methanol as a white powder.

reactant | 6-bromopyridin-2-ylmethyl acetate | 2.3 g | C(C)(=O)OCC1=NC(=CC=C1)Br | C8H8BrNO2
reactant | trimethyl silylacetylene | 1.18 g | C[Si](C#C)(C)C | C5H10Si
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 210 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 114 mg | [Cu]I
solvent | triethylamine | 12 mL | C(C)N(CC)CC | C6H15N
product | (6-ethynylpyridin-2-yl)methanol | 212 mg | C(#C)C1=CC=CC(=N1)CO | C8H7NO
